US08877801B2
To a solution of (E)-tert-butyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)-benzo[b]thiophen-3-yl)oxy)phenyl)acrylate (40 mg, 0.08 mmol) in DCM (2.5 mL) at 0° C. was added BBr3 (1.0 M in DCM, 0.33 mL, 0.33 mmol) dropwise, a solid immediately precipitated from the solution. The resulting mixture was stirred at 0° C. for 100 min after which the reaction was quenched by addition of sat. aq. NaHCO3 (4 mL) solution and a white precipitate was observed. The aqueous layer was then extracted with 5% MeOH/EtOAc (4×12 mL) and the combined organic layers were passed through a phase separator to remove water and concentrated in vacuo to afford the crude product which was dissolved in MeOH (2 mL) and purified by reverse phase HPLC (neutral condition, 3% 1-propanol in 1-100% CH3CN/H2O) to afford (E)-3-(4-((6-hydroxy-2-(4-hydroxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylic acid (17.5 mg, 0.04 mmol, 53% yield). LC/MS (m/z, MH+): 405.0790.

reactant | (E)-tert-butyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)-benzo[b]thiophen-3-yl)oxy)phenyl)acrylate | 0.08 mmol, 40 mg | COC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)/C=C/C(=O)OC(C)(C)C)C2=CC=C(C=C2)OC)C1 | C29H28O5S
reactant | BBr3 | 0.33 mmol, 1.0 M, 0.33 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 2 mL | CO | CH4O
product | (E)-3-(4-((6-hydroxy-2-(4-hydroxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylic acid | 0.04 mmol, 17.5 mg, 53% yield | OC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)/C=C/C(=O)O)C2=CC=C(C=C2)O)C1 | C23H16O5S
